Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bladder stones, Benign prostatic hypertrophy, nephrolithiasis, 
lower urinary tract symptoms
 
Major Surgical or Invasive Procedure:
 Cystoscopy, laser lithotripsy of bladder stones,
bipolar transurethral resection of prostate

 
History of Present Illness:
 ___ w/ nephrolithiasis and BPH presents for lithotripsy and 
TURP.  
 
Past Medical History:
 He has had multiple surgeries in the past without complications 
 
 He has an excellent functional status- no exertional symptoms 
on stairs or walking up hills which he does routinely each week  


 Past Medical History/Past Surgical and Anesthesia History:  
 Gastric polyps K31.7  
 deviated septum J34.2  
 Screening for colon cancer Z12.11  
 Tear, knee, medial meniscus S83.249A  
 ARTICULAR CARTILAGE DISORDER M24.10  
 PVD (posterior vitreous detachment) H43.819  
 Cataract, nuclear sclerotic senile H25.10  
 Tinnitus H93.19  
 Rotator cuff tear M75.100  
 Macular degeneration, dry H35.3190  
 Corneal guttata H18.51  
 Glaucoma suspect H40.009  
 At low risk for open-angle glaucoma H40.019  
 Vitreous detachment of both eyes H43.813  
 Dry eye syndrome H04.129  
 Healthcare maintenance Z00.00  
 Nephrolithiasis N20.0  
 Past Surgical History  
 Knee scope,abrasn arthroplasty ___ ___, M.D.  
 Knee scope,med or lat meniscec ___ ___, M.D.  
 Shoulder arthroscopy repair rotator cuff, RT ___ ___ 
___, M.D.  
 Shoulder arthroscopy distal claviculectomy w distal artic sfc  
 Right ___ ___, M.D.  
Shldr arthroscop,part acromioplas Right ___ ___  
 
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended 
Foley in place, secured to medial thigh. 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Pertinent Results:
___ 07:35AM BLOOD WBC-15.7* RBC-4.66 Hgb-15.6 Hct-47.1 
MCV-101* MCH-33.5* MCHC-33.1 RDW-11.9 RDWSD-44.8 Plt ___
___ 07:35AM BLOOD Glucose-81 UreaN-15 Creat-0.9 Na-139 
K-4.1 Cl-103 HCO3-26 AnGap-14
___ 07:35AM BLOOD Calcium-9.1 Mg-2.0

SOURCE: BLADDER STONES ___ 12:11 
STONE ANALYSIS Results Pending 

 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ service after 
cystoscopy, laser lithotripsy of bladder stones, bipolar 
transurethral resection of prostate. No concerning 
intraoperative events occurred; please see dictated operative 
note for details. Mr. ___ postoperative course was 
uncomplicated. He received intravenous antibiotics and 
continuous bladder irrigation overnight. On POD1 the CBI was 
discontinued and Foley catheter was removed with an active 
voiding trial.  Post void residuals were checked but remained 
high around 500cc. His urine was pink to pyridium and without 
clots. He remained a-febrile throughout his hospital stay. ___ 
coude was replaced by PA prior to discharge. Mr. ___ had 
pain well controlled with oral pain medications, was tolerating 
regular diet, ambulating without assistance, and voiding without 
difficulty.  He was given pyridium and oral pain medications on 
discharge along with explicit instructions to follow up in 
clinic next week for repeat trial of void. 
 
Medications on Admission:
 Allergies: Pollen  
 Current Outpatient Prescriptions:  
 FOLIC ACID ORAL Take by mouth  
 LACTOBACILLUS ACIDOPHILUS (PROBIOTIC ORAL)  
 ALBUTEROL SULFATE HFA 90 MCG/ACTUATION AEROSOL INHALER  
 inhale two puffs FOUR TIMES DAILY as needed.  
 cycloSPORINE (RESTASIS) 0.05 % Dropperette  
 1 drop BID ___  
 hydrocortisone (PROCTOSOL HC) 2.5 % Rectal Cream  
 apply daily after bathing  
 PROPYLENE GLYCOL/PEG 400 (SYSTANE OPHT)  
 Apply to affected eye(s)  
 Ibuprofen 600 mg Oral tablet  
 Take 1 tablet every 6 hours as needed for pain control.  
 Multivitamin-Zinc Gluconate (SOURCECF PED VITAMIN WITH ZINC) 5 
mg/mL Oral Drops 1 daily  
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Bacitracin Ointment 1 Appl TP TID  
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) PO twice a 
day Disp #*60 Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ONE HALF tablet(s) by mouth Q4hrs Disp #*10 
Tablet Refills:*0 
5.  Phenazopyridine 100 mg PO Q8H:PRN dysuria Duration: 3 Days 
RX *phenazopyridine [Pyridium] 100 mg ONE tablet(s) by mouth 
Q8hrs Disp #*9 Tablet Refills:*0 
6.  Proctosol HC (hydrocorTISone) 2.5 % rectal Other  
7.  Restasis 0.05 % ophthalmic BID  
8.  Senna 8.6 mg PO QHS Duration: 2 Doses  
9.  Albuterol Inhaler 1 PUFF IH Q6H:PRN sob  
10.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bladder stones and benign prostatic hypertrophy.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
These steps can help you recover after your procedure. 
•DO drink plenty of water to flush out the bladder. 
•DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated. 
•Don't take blood-thinning medications until your doctor says 
it's OK. 
•Don't do any strenuous activity, such as heavy lifting, for 
four to six weeks or until your doctor says it's OK. 
•Don't have sex. You'll likely be able to resume sexual 
activity in about four to six weeks. 
•Don't drive until your doctor says it's OK. ___, you can 
drive once your catheter is removed and you're no longer taking 
prescription pain medications. 

•You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve. You may 
have clear or yellow urine that periodically turns pink/red 
throughout the healing process. Generally, the discoloration of 
the urine is “OK” unless it transitions from ___, 
___ Aid to a very dark, thick or “like tomato juice” 
color

•Resume your pre-admission/home medications EXCEPT as noted. 
You should ALWAYS call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care team.  

•Unless otherwise advised, blood thinning medications like 
ASPIRIN should be held until the urine has been clear/yellow for 
at least three days.  Your medication reconciliation will note 
if you may resume aspirin or prescription blood thinners (like 
Coumadin (warfarin), Xarelto, Lovenox, etc.)

•If needed, you will be prescribed an antibiotic to continue 
after discharge or save until your Foley catheter is removed 
(called a “trial of void” or “void trial”).  

•You may be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and it is available 
over-the-counter 

•AVOID STRAINING for bowel movements as this may stir up 
bleeding.  Avoid  constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

•No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

•Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity (which includes 
intercourse) for a minimum of four weeks or until you are 
cleared by your Urologist in follow-up

•Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain.  

•The maximum daily Tylenol/Acetaminophen dose is 3 grams from 
ALL sources. 

•Do not drive or drink alcohol while taking narcotics and do 
not operate dangerous machinery.  

WHEN YOU ARE DISCHARGED WITH A FOLEY CATHETER:
o-Please also reference the nursing handout and instructions on 
routine care and hygiene

o-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

o-DO NOT allow anyone outside your urologist/team 
representative remove your Foley for any reason.

o-Wear Large Foley bag for majority of time. The leg bag (if 
provided)  is for short-duration periods and the bag must be 
emptied frequently.

o-Do NOT drive if you have a Foley in place (for your 
safety-but of course you may be a passenger
 
Followup Instructions:
___